US04722929
2-(2-Methoxy-4-amino-5-nitro-phenyl)-5-methoxy-imidazo[4,5-b]pyridine
One half gram of 2-[2-methoxy-5-nitro-4-(4,4-dimethyl-7-nitro-2H,4H-isoquinolin-1,3-dione-2-yl)-phenyl]-5-methoxy-imidazo[4,5-b]pyridine is suspended in 10 ml of isopropanol, mixed with 0.5 ml of 80% hydrazine hydrate, and refluxed for 1.75 hours with stirring. The reaction mixture is concentrated by evaporation, the residue is triturated with 50 ml of ice water, and the product precipitated is purified by chromatography on silica gel [eluant: methylene chloride/ethanol (100:0 to 100:2)].

reactant | 2-[2-methoxy-5-nitro-4-(4,4-dimethyl-7-nitro-2H,4H-isoquinolin-1,3-dione-2-yl)-phenyl]-5-methoxy-imidazo[4,5-b]pyridine | COC1=C(C=C(C(=C1)N1C(C2=CC(=CC=C2C(C1=O)(C)C)[N+](=O)[O-])=O)[N+](=O)[O-])C=1NC=2C(=NC(=CC2)OC)N1 | C25H20N6O8
reactant | hydrazine hydrate | 0.5 ml | O.NN
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 2-(2-Methoxy-4-amino-5-nitro-phenyl)-5-methoxy-imidazo[4,5-b]pyridine | COC1=C(C=C(C(=C1)N)[N+](=O)[O-])C=1NC=2C(=NC(=CC2)OC)N1 | C14H13N5O4
